US06528649B2
(2) 4-(Phenylmethoxy)isoquinolinecarbonitile
A mixture of 1-chloro-4-(phenylmethoxy)isoquinoline (2.26 g, 8.4 mmol), Zn(CN)2 (590 mg), tris(dibenzylideneacetone)dipalladium (219 mg), 1,1′-bis(diphenylphosphino)ferrocene (270 mg) in 100 ml of DMF is heated at 150° C. for 24 h under nitrogen. TLC and LC-MS analysis indicates complete consumption of starting material after 24 h. The mixture is then cooled to 80° C. and gradually diluted with 4:1:4 saturated aq. NH4Cl: concentrated NH4OH:water (200 mL) over 0.5 hours. The slurry is cooled to 0° C. and filtered through celite. The tan solid is collected by filtration, washed and dried to give the titled compound as a tan solid (1.5 g), m.p. 124-125° C.

reactant | 1-chloro-4-(phenylmethoxy)isoquinoline | 8.4 mmol, 2.26 g | ClC1=NC=C(C2=CC=CC=C12)OCC1=CC=CC=C1 | C16H12ClNO
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 590 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | tris(dibenzylideneacetone)dipalladium | 219 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 270 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-(Phenylmethoxy)isoquinolinecarbonitile | 1.5 g | C1(=CC=CC=C1)COC1=CN=C(C2=CC=CC=C12)C#N | C17H12N2O
